US07300930B2
2,6-Diamino-9(10H)-acridone (AR-ACO-08)
Finely ground 3-amino-7-nitro-9(10H)-acridone (AR-ACO-7, 22.50 g, 88.1 mmol) was suspended in ethanol (950 mL) and stirred at reflux. A solution of sodium sulfide nonahydrate (94.75 g, 394 mmol) and sodium hydroxide (37.5 g, 938 mmol) in water (1.7 L) was added in one lot and refluxing continued for 20 hr. The mixture was allowed to cool to room temperature and ammonium bicarbonate (50 g) was added in one lot and dissolved. The solution was reduced to about 500 mL on a rotary evaporator and allowed to stand overnight. The flask was chilled with ice-water, the product collected, and washed with ice cold water until the filtrate was a pale yellow-green colour. The crude product was dried then dissolved in boiling 1 M hydrochloric acid (900 mL). Charcoal (1 g) was added and the solution filtered whilst hot through a fluted paper. The filtrate was basified to pH 8 by the addition of 0.88 s.g. ammonia and the precipitate collected and was washed with water (2×20 mL) and dried over P2O5 under vacuum to yield a yellow solid AR-ACO-08 (19.85 g, 61.2%).

reactant | 3-amino-7-nitro-9(10H)-acridone | 88.1 mmol, 22.50 g | NC=1C=CC=2C(C3=CC(=CC=C3NC2C1)[N+](=O)[O-])=O | C13H9N3O3
reactant | sodium sulfide nonahydrate | 394 mmol, 94.75 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | sodium hydroxide | 938 mmol, 37.5 g | [OH-].[Na+]
reactant | ammonium bicarbonate | 50 g | C([O-])(O)=O.[NH4+]
solvent | ethanol | 950 mL | C(C)O | C2H6O
solvent | water | 1.7 L | O | H2O
product | 2,6-Diamino-9(10H)-acridone | NC1=CC=2C(C3=CC=C(C=C3NC2C=C1)N)=O | C13H11N3O
